US06639107B1
Scheme IB, step A: A one liter three necked round bottom flask equipped with a mechanical stirrer, addition funnel, thermometer is charged with 1M THF solution of phenylmagnesium bromide (300 mL, 300.0 mmol) and copper iodide (3.8 g, 20.0 mmol). To this reaction mixture was then added cyclopentene oxide (25.23 g, 300.0 mmol) dissolved in THF (50.0 mL) dropwise over a period of 60 minutes (reaction was quite exothermic, reaching THF reflux by the end of addition). The reaction mixture was then stirred to room temperature and quenched with 25% solution of ammonium chloride (200.0 mL). Added ether (80.0 mL) and separated upper organic layer. Washed organic layer with 25% ammonium chloride solution, dried with anhydrous magnesium sulfate, filtered and concentrated filtrate to provide (+,−) trans-2-phenyl-cyclopentanol as a brown oil (mass =47.7 g);

reactant | phenylmagnesium bromide | 300.0 mmol, 300 mL | C1(=CC=CC=C1)[Mg]Br
reactant | cyclopentene oxide | 300.0 mmol, 25.23 g | C12C(CCC1)O2 | C5H8O
solvent | THF | 50.0 mL | C1CCOC1 | C4H8O
catalyst | copper iodide | 20.0 mmol, 3.8 g | [Cu](I)I
solvent | THF | 1M | C1CCOC1 | C4H8O
product | (+,−) trans-2-phenyl-cyclopentanol | C1(=CC=CC=C1)[C@H]1[C@@H](CCC1)O | C11H14O
